US08168412B2
Production of (R)—N-Boc-3-aminopyrrolidine with Use of the Recombinant Escherichia coli that Expresses TAS, PALDH, and GDH
To a flask containing 0.5 g of a substrate N-Boc-3-pyrrolidinone, 0.73 g of D-glucose, 4 mg of NAD+, 1.44 g of D-alanine, and 3.3 mg of pyridoxal phosphate, a culture fluid of the recombinant E. coli HB101 (pNTASPAG), obtained in Example 11, which expresses TAS, PALDH, and GDH was added so that total volume was 25 ml. The resultant product was stirred at 30° C. while being adjusted to a pH of 6.8 by drippage of 5 N aqueous solution of sodium hydroxide. After nine hours in reaction, 0.25 g of N-Boc-3-pyrrolidinone, 0.37 g of D-glucose, 0.37 g of D-alanine, and 3 mg of pyridoxal phosphate were added.

reactant | N-Boc-3-pyrrolidinone | 0.5 g | C(=O)(OC(C)(C)C)N1CC(CC1)=O | C9H15NO3
reactant | D-glucose | 0.73 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | NAD+ | 4 mg | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)O)O)O)O)C(=O)N
reactant | D-alanine | 1.44 g | N[C@H](C)C(=O)O | C3H7NO2
reactant | pyridoxal phosphate | 3.3 mg | CC1=C(C(=C(C=N1)COP(=O)(O)O)C=O)O | C8H10NO6P
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N-Boc-3-pyrrolidinone | 0.25 g | C(=O)(OC(C)(C)C)N1CC(CC1)=O | C9H15NO3
reactant | D-glucose | 0.37 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | D-alanine | 0.37 g | N[C@H](C)C(=O)O | C3H7NO2
reactant | pyridoxal phosphate | 3 mg | CC1=C(C(=C(C=N1)COP(=O)(O)O)C=O)O | C8H10NO6P
product | (R)—N-Boc-3-aminopyrrolidine | C(=O)(OC(C)(C)C)N1C[C@@H](CC1)N | C9H18N2O2
